US07728012B2
40.1 Phenylmethyl [2-hydroxy-1-(2-thienylmethyl)ethyl]carbamate
24.8 g of 3-(2-thienyl)alanine (144.8 mmol) were added in portions to 11.0 g of LiAlH4 in 550 ml of tetrahydrofuran, heated to reflux. The mixture was then heated under reflux for 8 hours and subsequently stirred at room temperature overnight. 17.6 ml of 10% NaOH solution were added and then 22 ml of H2O were slowly added dropwise, and the mixture was stirred for 5 minutes. Then, first 391 ml of 10% NaOH solution and subsequently, at −5° C., 22.2 g of benzyl chloroformate (130.32 mmol) were added, and the mixture was stirred at room temperature for 3 hours. For workup, the mixture was extracted with dichloromethane, the organic phase was dried, the solvent was evaporated and the remaining residue was filtered through silica gel (eluent: CH2Cl2/methanol 2.5%). 36.8 g of the title compound were obtained as a yellowish oil.

reactant | 3-(2-thienyl)alanine | 144.8 mmol, 24.8 g | S1C(=CC=C1)C[C@H](N)C(=O)O | C7H9NO2S
reactant | LiAlH4 | 11.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 17.6 ml | [OH-].[Na+]
reactant | NaOH | 391 ml | [OH-].[Na+]
reactant | benzyl chloroformate | 130.32 mmol, 22.2 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | tetrahydrofuran | 550 ml | O1CCCC1 | C4H8O
solvent | H2O | 22 ml | O | H2O
product | Phenylmethyl [2-hydroxy-1-(2-thienylmethyl)ethyl]carbamate | 36.8 g | OCC(CC=1SC=CC1)NC(OCC1=CC=CC=C1)=O | C15H17NO3S
